US04146721
3.0 grams 3-benzoyl-levulinic acid-ethyl ester, 1.3 gram phenyl-hydrazine, 0.15 milliliter 2N aqueous hydrochloric acid and 25 milliliters n-butanol were mixed and the mixture heated to boiling temperature under reflux for 1.5 hour. The reaction mixture was evaporated in vacuo and benzene added to the residue. The benzene solution was adjusted to a pH of 4 and extracted with water. The benzene was evaporated from the solution, and 15 milliliters ethanol and 20 milliliters 1N aqueous sodium hydroxide were added to the residue and the mixture heated to the boiling temperature. The mixture was then worked up and the free acid recovered in accordance with the procedure set out in Example (1b). 3.3 grams 3-methyl-1,5-diphenyl-pyrazol-4-acetic acid, melting at 159°-161° C., were obtained representing a yield of 93%.

reactant | 3-benzoyl-levulinic acid-ethyl ester | 3.0 grams | C(C)OC(CC(C(=O)C)C(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | phenyl-hydrazine | 1.3 gram | C1(=CC=CC=C1)NN | C6H8N2
reactant | hydrochloric acid | 2N, 0.15 milliliter | Cl | ClH
solvent | n-butanol | 25 milliliters | C(CCC)O | C4H10O
product | 3-methyl-1,5-diphenyl-pyrazol-4-acetic acid | 3.3 grams, yield of 93% | CC1=NN(C(=C1CC(=O)O)C1=CC=CC=C1)C1=CC=CC=C1 | C18H16N2O2
